US04175129
A mixture of 6 parts of 1-{3-[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]propyl}-1,3-dihydro-5-methyl-3-(1-methylethenyl)-2H-benzimidazol-2-one, 12 parts of a hydrochloric acid solution, 30 parts of water and 40 parts of ethanol is stirred first for a while at 50° C. and further for 1 hour at room temperature. The reaction mixture is evaporated and the residue is crystallized from a mixture of 4-methyl-2-pentanone and 2-propanol. The product is filtered off and dried, yielding 3.7 parts (40%) of 1-{3-[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]propyl}-1,3-dihydro-5-methyl-2H-benzimidazol-2-one hydrochloric hydrate; mp. 251.4° C.

reactant | 1-{3-[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]propyl}-1,3-dihydro-5-methyl-3-(1-methylethenyl)-2H-benzimidazol-2-one | O=C1NC2=C(N1C1CCN(CC1)CCCN1C(N(C3=C1C=CC(=C3)C)C(=C)C)=O)C=CC=C2 | C26H31N5O2
reactant | hydrochloric acid | Cl | ClH
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 1-{3-[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]propyl}-1,3-dihydro-5-methyl-2H-benzimidazol-2-one | 40% | O=C1NC2=C(N1C1CCN(CC1)CCCN1C(NC3=C1C=CC(=C3)C)=O)C=CC=C2 | C23H27N5O2
